US05753664
1,3-Dimethyl-7-[4-(4-phenylpiperazinylmethylbenzoyl)benzyl]xanthine
A solution of 7-[4-(4-bromomethylbenzoyl)benzyl]-1,3-dimethylxanthine (232 mg), potassium carbonate (109 mg) and 1-phenylpiperazine (92 mg) in DMF (10 ml) was stirred at 60° C. for 5 hours. This reaction mixture was poured in water and extracted with ethyl acetate. The extract was washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate: hexane: triethylamine =3:1:0.1) and recrystallized from chloroform-isopropyl ether to provide the title compound as colorless solid (20 mg).

reactant | 7-[4-(4-bromomethylbenzoyl)benzyl]-1,3-dimethylxanthine | 232 mg | BrCC1=CC=C(C(=O)C2=CC=C(CN3C=NC=4N(C(N(C(C34)=O)C)=O)C)C=C2)C=C1 | C22H19BrN4O3
reactant | potassium carbonate | 109 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-phenylpiperazine | 92 mg | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1,3-Dimethyl-7-[4-(4-phenylpiperazinylmethylbenzoyl)benzyl]xanthine | 20 mg | CN1C(=O)N(C=2N=CN(C2C1=O)CC1=CC=C(C=C1)C(C1=C(C=C(C=C1)C1=CC=CC=C1)CN1CCNCC1)=O)C | C32H32N6O3
